US04209621
2-Ethyl-7-(m-trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 2.24 g. of 3-amino-5-ethyl-1,2,4-triazole and 4.86 g. of 3-dimethylamino-3'-trifluoromethylacrylophenone in 50 ml. of glacial acetic acid is refluxed for 16 hours. The resulting mixture is worked up as described in Example 54 to give the product of the Example, m.p. 132°-134° C.

reactant | 3-amino-5-ethyl-1,2,4-triazole | NC1=NNC(=N1)CC | C4H8N4
reactant | 3-dimethylamino-3'-trifluoromethylacrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Ethyl-7-(m-trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine | C(C)C1=NN2C(N=CC=C2C2=CC(=CC=C2)C(F)(F)F)=N1 | C14H11F3N4
